US04007033
Preparation of 1-methyl-1-(1,2,2,2-tetrachloroethyl)-3-(3,4-dichlorophenyl) urea
1-(3,4-dichlorophenyl)-3-methyl urea (15.2 g, 0.07 mol) was combined with 15.0 g (0.1 mol) of chloral and 5 drops of concentrated sulfuric acid. The mixture was heated for an hour to effect reaction, then stripped under vacuum. To the crude 1-(3,4-dichlorophenyl)-3-(1-hydroxy-2,2,2-trichloroethyl)-3-methyl urea was added an excess of thionyl chloride and the mixture was heated gradually to a maximum of 65° C. Diethyl ether was added to the crude product, and the insoluble product was collected on a filter, washed twice with diethyl ether and dried. The 15.3 g of product, which melted at 132°-140° C., analyzed as follows: %Cl, calculated 55.2, found 46.0.

reactant | 1-(3,4-dichlorophenyl)-3-methyl urea | 0.07 mol, 15.2 g | ClC=1C=C(C=CC1Cl)NC(=O)NC | C8H8Cl2N2O
reactant | chloral | 0.1 mol, 15.0 g | O=CC(Cl)(Cl)Cl | C2HCl3O
reactant | 1-(3,4-dichlorophenyl)-3-(1-hydroxy-2,2,2-trichloroethyl)-3-methyl urea | ClC=1C=C(C=CC1Cl)NC(=O)N(C)C(C(Cl)(Cl)Cl)O | C10H9Cl5N2O2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
catalyst | sulfuric acid | 5 drops | S(O)(O)(=O)=O | H2O4S
solvent | Diethyl ether | C(C)OCC | C4H10O
product | 1-methyl-1-(1,2,2,2-tetrachloroethyl)-3-(3,4-dichlorophenyl) urea | CN(C(=O)NC1=CC(=C(C=C1)Cl)Cl)C(C(Cl)(Cl)Cl)Cl | C10H8Cl6N2O
